datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][O:14][H:15]>>[C:0]([C:1]([C:2]([C:3]([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:13][O:14][H:15],61.46296
[C-:5]#[O+:6].[C:0]([O:1])([H:2])([H:3])[H:4]>>[C:0]([O:1][C:5]=[O:6])([H:2])([H:3])[H:4],12.552
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10](=[O:11])[O:12][O:13])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][O:13][O:12][C:10]([C:9]([H:14])([H:15])[H:16])=[O:11],56.6814848
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7](=[C:8]([H:10])[H:11])[H:9]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][C:7](=[C:8]([H:10])[H:11])[H:9],15.3971
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26](=[C:27]([H:29])[H:30])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:26](=[C:27]([H:29])[H:30])[H:28])[H:14])([H:12])[H:13],11.6315
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:11]([H:12])([H:13])[H:14],27.6562
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[N:14]([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][N:14]([H:15])[H:16],32.50968
[C:0]1([H:9])[C:1]([H:10])=[C:2]([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]2([H:14])[C:6]([H:15])=[C:7]([H:16])[C:8]12[H:17]>>[C:0]1([H:9])=[C:8]([H:17])[C:7]([H:16])=[C:6]([H:15])[C:5]([H:14])[C:4]([H:13])=[C:3]([H:12])[C:2]([H:11])=[C:1]1[H:10],98.324
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[S:8]([C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])[H:17])[H:16]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9]([S:8][H:16])([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])[H:17],20.0832
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](=[C:15][C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:15](=[C:14]([H:17])[H:18])[C:16]([H:19])([H:20])[H:21])[H:6],-1.17152
[C:0]([C:1]([C:2](=[O:3])[C:4]([O:5])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2](=[O:3])[C:4]([O:5][H:6])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],29.819368
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:16])([H:17])[H:18])[C:5]([C:6](=[C:7]([C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:22])[H:21])([H:19])[H:20])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([H:15])[C:3]([C:4]([H:16])([H:17])[H:18])[C:5]([H:19])([H:20])[C:6]([H:21])=[C:7]([H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:14])([H:12])[H:13],133.47
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[S:12]=[C:13]([C:14]([S:15][H:18])[H:17])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:14]([C:13](=[S:12])[H:16])([S:15][H:18])[H:17],104.433
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:5]([C:6](=[C:7]([H:21])[H:22])[H:20])([H:18])[H:19])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:5]([H:18])([H:19])[C:6]1([C:7]([H:21])[H:22])[H:20],17.1544
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10](=[C:11]=[C:12]([H:14])[H:15])[H:13]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:10](=[C:11]=[C:12]([H:14])[H:15])[H:13],34.0578
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[C:23]([H:24])([H:25])[H:26])[H:13])([H:11])[H:12],23.2212
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([C:9](=[S:10])[H:15])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8]([C:7]([H:11])([H:12])[H:13])([C:9](=[S:10])[H:15])[H:14],78.6592
[C:0](#[C:1][C:2]([C:3]#[C:4][H:11])=[C:5]([C:6]#[C:7][H:12])[C:8]#[C:9][H:13])[H:10].[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:11])([C:5]([C:6]#[C:7][H:12])[C:8]#[C:9][H:13])[H:14])[H:10],13.5143
[C:0]([C:1](=[S:2])[S:3][H:7])([H:4])([H:5])[H:6].[H:8]>>[C:0]([C:1]([S:2])([S:3][H:7])[H:8])([H:4])([H:5])[H:6],20.7945
